* C:\Users\begow\Desktop\all\repos\MPEI\MPEI_Magistracy\Term_3\memory_system\variant_1\KM4\Draft3.asc
V1 N001 0 PULSE(0 1.5 5e-6 1e-8 1e-8 10e-6 20e-6 2)
V2 N002 0 PULSE(1.5 0 0 1e-8 1e-8 2e-6 4e-6)
XX1 N002 N001 N003 three_state_new
XX2 N003 N004 invert

* block symbol definitions
.subckt three_state_new in en out
XX1 in en N002 nand
XX2 N003 in N004 nor
XX3 en N003 invert
M1 out N002 N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 out N004 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends three_state_new

.subckt invert in out
M1 out in 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N001 in out N001 PMOS l=130e-9 w=260e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends invert

.subckt nand A B OUT
M1 OUT A N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N002 B 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 OUT B N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 OUT A N002 N002 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends nand

.subckt nor A B OUT
M1 N002 A N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 OUT A 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 OUT B N002 N002 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 OUT B 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\begow\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 40e-6 0 1e-8
.backanno
.end
