* C:\Users\begow\Desktop\all\repos\MPEI\MPEI_Magistracy\Term_three\memory_system\variant_1\KM4\Memory.asc
XX1 N001 N002 memory_cell
XX17 Eq YT ~YT N002 N006 amplifaer
XX2 N010 N006 memory_cell
XX3 Eq YT ~YT N006 N011 amplifaer
XX4 N015 N011 memory_cell
XX5 Eq YT ~YT N011 N017 amplifaer
XX6 N016 N017 memory_cell
XX7 Eq YT ~YT N017 NC_01 amplifaer
XX8 N001 N003 memory_cell
XX9 Eq YT ~YT N003 N007 amplifaer
XX10 N010 N007 memory_cell
XX11 Eq YT ~YT N007 N012 amplifaer
XX12 N015 N012 memory_cell
XX13 Eq YT ~YT N012 N018 amplifaer
XX14 N016 N018 memory_cell
XX15 Eq YT ~YT N018 NC_02 amplifaer
XX16 N001 N004 memory_cell
XX18 Eq YT ~YT N004 N008 amplifaer
XX19 N010 N008 memory_cell
XX20 Eq YT ~YT N008 N013 amplifaer
XX21 N015 N013 memory_cell
XX22 Eq YT ~YT N013 N019 amplifaer
XX23 N016 N019 memory_cell
XX24 Eq YT ~YT N019 NC_03 amplifaer
XX25 N001 N005 memory_cell
XX26 Eq YT ~YT N005 N009 amplifaer
XX27 N010 N009 memory_cell
XX28 Eq YT ~YT N009 N014 amplifaer
XX29 N015 N014 memory_cell
XX30 Eq YT ~YT N014 N020 amplifaer
XX31 N016 N020 memory_cell
XX32 Eq YT ~YT N020 NC_04 amplifaer
V1 Eq 0 PULSE(0 1.5 0 0 0 1e-8 2e-8)
V2 YT 0 PULSE(1.5 0 0 0 0 1e-8 2e-8)
V3 ~YT 0 PULSE(0 1.5 0 0 0 1e-8 2e-8)
XX37 select ~B0 ~B1 N002 charge_decoder
XX38 select B0 ~B1 N003 charge_decoder
XX39 select ~B0 B1 N004 charge_decoder
XX40 select B0 B1 N005 charge_decoder
V4 ~A0 0 PULSE(0 1.5 0 1e-9 1e-9 1e-7 2e-7)
V5 A0 0 PULSE(1.5 0 0 1e-9 1e-9 1e-7 2e-7)
V6 ~A1 0 PULSE(0 1.5 0 1e-9 1e-9 2e-7 4e-7)
V7 A1 0 PULSE(1.5 0 0 1e-9 1e-9 2e-7 4e-7)
V8 select 0 PULSE(0 1.5 0 0 0 0.5e-7 1e-7)
V9 ~B0 0 PULSE(0 1.5 0 1e-9 1e-9 1e-7 2e-7)
V10 B0 0 PULSE(1.5 0 0 1e-9 1e-9 1e-7 2e-7)
V11 ~B1 0 PULSE(0 1.5 0 1e-9 1e-9 2e-7 4e-7)
V12 B1 0 PULSE(1.5 0 0 1e-9 1e-9 2e-7 4e-7)
XX42 select A0 A1 N001 N010 N015 N016 addres_decoder

* block symbol definitions
.subckt memory_cell WL BL
M1 BL WL N001 N001 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
C1 N001 0 8e-15
.inc 130nm_bulk.pm
.ends memory_cell

.subckt amplifaer Eq YT ~YT BL00 BL01
M1 BL01 Eq BL00 N003 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N004 Eq BL00 BL00 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 N004 Eq BL01 BL01 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V2 N004 0 0.75
C1 BL00 0 80e-15
C2 BL01 0 80e-15
M4 BL00 BL01 N005 N005 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M5 BL01 BL00 N005 N005 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M6 N005 YT 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M8 BL00 BL01 N002 N002 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M9 BL01 BL00 N002 N002 PMOS l=130e-9 w=12600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M10 N002 ~YT N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V5 N001 0 1.5
.inc 130nm_bulk.pm
.ic V(one)=1.1 V(zero)=0.2
.ends amplifaer

.subckt charge_decoder select a0 a1 out
M1 N001 a1 N002 N002 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N001 select VDD VDD PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 N002 a0 N003 N003 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 N003 select 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M5 out N001 VDD VDD PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M6 out N001 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M7 N001 out VDD VDD PMOS l=260e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V3 VDD 0 1.5
.inc 130nm_bulk.pm
.ends charge_decoder

.subckt addres_decoder SELECT A0 A1 D0 D1 D2 D3
XX1 SELECT N001 A1 D2 charge_decoder
XX2 SELECT A0 A1 D3 charge_decoder
XX3 SELECT A0 N002 D1 charge_decoder
XX4 SELECT N001 N002 D0 charge_decoder
XX5 A0 vdd 0 N001 invert
XX6 A1 vdd 0 N002 invert
V1 vdd 0 1.5
.ends addres_decoder

.subckt invert in vdd gnd out
M1 out in gnd gnd NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 vdd in out vdd PMOS l=130e-9 w=260e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
.inc 130nm_bulk.pm
.ends invert

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\begow\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10e-7 0 1e-8
.backanno
.end
